US04722929
2-(2-Methoxy-4-methylmercapto-phenyl)-4H-imidazo[4,5-b]pyridin-5-one
An amount of 6.2 gm of 2-[(2-methoxy-4-methylmercapto-benzoyl)-amino]-3-nitro-1H-pyridin-6-one is dissolved in 370 ml of glacial acetic acid and hydrogenated with hydrogen in the presence of 6 gm of 10% palladium charcoal at ambient temperature under 5 bars of pressure (duration of reaction: two hours). The catalyst is filtered off, and the filtrate is refluxed for about 1.5 hours with stirring. Then, about 250 ml of the solvent is evaporated off, and the remaining solution is poured onto ice water and neutralized with ammonia. The precipitate obtained is recrystallized from methanol. Another fraction can be obtained by evaporating the mother liquors of crystallization and triturating the residue with ether:

reactant | 2-[(2-methoxy-4-methylmercapto-benzoyl)-amino]-3-nitro-1H-pyridin-6-one | 6.2 gm | COC1=C(C(=O)NC=2NC(C=CC2[N+](=O)[O-])=O)C=CC(=C1)SC | C14H13N3O5S
solvent | acetic acid | 370 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen | [H][H] | H2
catalyst | palladium charcoal | 6 gm | [Pd] | Pd
product | 2-(2-Methoxy-4-methylmercapto-phenyl)-4H-imidazo[4,5-b]pyridin-5-one | COC1=C(C=CC(=C1)SC)C1=NC=2C(NC(CC2)=O)=N1 | C14H13N3O2S
